US04958026
2-(4-Amino-3-benzyloxyphenyl)ethylamine, Hydrochloride
In the presence of Raney nickel, 3.2 g of 2-(3-benzyloxy-4-nitrophenyl)ethylamine, hydrochloride, is hydrogenated in 50 ml of methanol, thus producing, after recrystallizing the product from ethanol, 1.36 g of 2-(4-amino-3-benzyloxyphenyl)ethylamine, hydrochloride, mp 181°-184° C.

reactant | 2-(3-benzyloxy-4-nitrophenyl)ethylamine, hydrochloride | 3.2 g | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CCN
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Amino-3-benzyloxyphenyl)ethylamine, Hydrochloride | Cl.NC1=C(C=C(C=C1)CCN)OCC1=CC=CC=C1 | InChI=1S/C15H18N2O.ClH/c16-9-8-12-6-7-14(17)15(10-12)18-11-13-4-2-1-3-5-13;/h1-7,10H,8-9,11,16-17H2;1H
